US09376443B2
N-[2-Amino-4-chloro-6-({6-[(S)-(tetrahydro-furan-3-yl)oxymethyl]pyridin-2-ylmethyl}amino)pyrimidin-5-yl]formamide
A mixture of N-(2-amino-4,6-dichloropyrimidin-5-yl)formamide (17.24 g, 82.46 mmol), 6-[(S)-(tetrahydrofuran-3-yl)oxymethyl]pyridin-2-ylmethylamine (18.89 g, 90.70 mmol) and triethylamine (12.64 mL, 90.70 mmol) in propan-2-ol (165 mL) was heated at reflux for 2 h, cooled and the resulting precipitate was filtered, washed with cold propan-2-ol and dried to give the title compound (22.66 g, 73%) as a pink solid; LC-MS retention time 1.46 min, (M+H)+ 379.

reactant | N-(2-amino-4,6-dichloropyrimidin-5-yl)formamide | 82.46 mmol, 17.24 g | NC1=NC(=C(C(=N1)Cl)NC=O)Cl | C5H4Cl2N4O
reactant | 6-[(S)-(tetrahydrofuran-3-yl)oxymethyl]pyridin-2-ylmethylamine | 90.70 mmol, 18.89 g | O1C[C@H](CC1)OCC1=CC=CC(=N1)CN | C11H16N2O2
reactant | triethylamine | 90.70 mmol, 12.64 mL | C(C)N(CC)CC | C6H15N
solvent | propan-2-ol | 165 mL | CC(C)O | C3H8O
product | N-[2-Amino-4-chloro-6-({6-[(S)-(tetrahydro-furan-3-yl)oxymethyl]pyridin-2-ylmethyl}amino)pyrimidin-5-yl]formamide | 22.66 g, 73% | NC1=NC(=C(C(=N1)Cl)NC=O)NCC1=NC(=CC=C1)CO[C@@H]1COCC1 | C16H19ClN6O3
